* LVS netlist generated with ICnet by 'bxl1703' on Fri Oct  4 2019 at 07:58:11

*
* Globals.
*
.global ground

*
* Component pathname : $PYXIS_SPT/digicdesign/inv2
*
.subckt inv2  VOUT VDD Vin

        M2 VOUT Vin ground ground nmos l=0.13u w=0.26u m=1
        M3 VOUT Vin VDD VDD pmos l=0.13u w=0.52u m=1
.ends inv2

