* File: inv2.pex.netlist
* Created: Fri Oct  4 15:57:17 2019
* Program "Calibre xRC"
* Version "v2013.4_26.18"
* 
.global VDD VSS 
.include "inv2.pex.netlist.pex"
.subckt INV2  GROUND VOUT VIN
* 
* VIN	VIN
* VDD	VDD
* VOUT	VOUT
* GROUND	GROUND
M0 N_VOUT_M0_d N_VIN_M0_g N_GROUND_M0_s N_GROUND_M0_b NMOS L=1.3e-07 W=2.6e-07
M1 N_VOUT_M1_d N_VIN_M1_g N_VDD_M1_s N_VDD_M1_b PMOS L=1.3e-07 W=5.2e-07
*
.include "inv2.pex.netlist.INV2.pxi"
*
.ends
*
*
